US03935015
Preparation of Coupler (2), 1-(2,4,6-Trichlorophenyl)-3-(2-methoxy-5-n-tetradecanoylaminoanilino)-5-pyrazolone:
Using the same procedure as Method (a) in Synthesis Example 1, in place of 2-chloro-5-nitroaniline, 2-methoxy-5-nitroaniline was reacted with β,β-diethoxyacrylic acid ethyl ester and then the reaction product was further reacted with 2,4,6-trichloro phenylhydrazine to give the desired product having a melting point of 254°C.

reactant | 2-chloro-5-nitroaniline | ClC1=C(N)C=C(C=C1)[N+](=O)[O-] | C6H5ClN2O2
reactant | 2-methoxy-5-nitroaniline | COC1=C(N)C=C(C=C1)[N+](=O)[O-] | C7H8N2O3
reactant | β,β-diethoxyacrylic acid ethyl ester | C(C)OC(C=C(OCC)OCC)=O | C9H16O4
reactant | 2,4,6-trichloro phenylhydrazine | ClC1=C(C(=CC(=C1)Cl)Cl)NN | C6H5Cl3N2
product | 1-(2,4,6-Trichlorophenyl)-3-(2-methoxy-5-n-tetradecanoylaminoanilino)-5-pyrazolone | ClC1=C(C(=CC(=C1)Cl)Cl)N1NC(=CC1=O)NC1=C(C=CC(=C1)NC(CCCCCCCCCCCCC)=O)OC | C30H39Cl3N4O3
